US07932246B2
N-Hydroxy 2-(6-morpholin-4-yl-3-azabicyclo[3.1.0]hex-3-yl)pyrimidine-5-carboxamide—Example 62
N-(1-Isobutoxyethoxy) 2-(6-morpholin-4-yl-3-aza-bicyclo[3.1.0]hex-3-yl)pyrimidine-5-carboxamide (10 mg, 0.02 mmol) was dissolved in DCM (2 ml) and treated with 4M HCl in dioxane (0.4 ml, 0.1 mmol). The resultant mixture was stirred at r.t. for 30 min, then evaporated under reduced pressure and azeotroped with MeOH (3×5 ml) to give the title compound as a white solid (2.3 mg, 40%). LCMS purity 90%, m/z 306 [M+H]+, 1H NMR (300 MHz, CD3OD) δ: 2.49 (2H, br s), 2.85 (1H, br s), 3.55-3.87 (8H, m), 4.10 (4H, m), 8.72 (2H, s).

reactant | N-(1-Isobutoxyethoxy) 2-(6-morpholin-4-yl-3-aza-bicyclo[3.1.0]hex-3-yl)pyrimidine-5-carboxamide | 0.02 mmol, 10 mg | C(C(C)C)OC(C)ONC(=O)C=1C=NC(=NC1)N1CC2C(C2C1)N1CCOCC1 | C20H31N5O4
reactant | HCl | 4M | Cl | ClH
reactant | dioxane | 0.1 mmol, 0.4 ml | O1CCOCC1 | C4H8O2
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
product | N-Hydroxy 2-(6-morpholin-4-yl-3-azabicyclo[3.1.0]hex-3-yl)pyrimidine-5-carboxamide | 2.3 mg, 40% | ONC(=O)C=1C=NC(=NC1)N1CC2C(C2C1)N1CCOCC1 | C14H19N5O3
